US05739166
Under nitrogen, 7.3 mL (77 mmol) of dimethylsulfate was added to a stirred suspension of 10 g (48 mmol) of 4-bromo-2-chlorophenol and 5.4 g (38 mmol) of powered K2CO3 in 75 mL of fresh acetone. After 2 hours at reflux, the reaction was cooled to ambient temperature, filtered, and concentrated in vacuo. The residue was dissolved in ethyl acetate; the resulting solution was washed with water and dried over MgSO4. Concentration in vacuo gave 10.2 g (96%) of 4-bromo-2-chloroanisole as a colorless solid: mp 68.5°-70.5° C.; NHR (CDCl3) δ 3.88 (s, 3H), 6.80 (d, J=9 Hz, 1H), 7.33 (dd, J=2, 9 Hz, 1H), 7.50 (d, J=2 Hz, 1H).

reactant | dimethylsulfate | 77 mmol, 7.3 mL | COS(=O)(=O)OC | C2H6O4S
reactant | 4-bromo-2-chlorophenol | 48 mmol, 10 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | K2CO3 | 38 mmol, 5.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 4-bromo-2-chloroanisole | 10.2 g, 96% | BrC1=CC(=C(C=C1)OC)Cl | C7H6BrClO
